Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Intoxication, fall
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ who presented intoxicated to the ED from his 
hotel room early in the morning on ___. Patient was drinking 
alcohol night of ___ with his co-workers. He had 1 pint beer, 2 
vodka drinks, split 2 fishbowls with 2 other friends, a rum + 
___, IPA, followed by an additional rum + ___ in his friend's 
hotel room after coming back from the bars. He then blacked out, 
according to his friend's report and vomited. His friend brought 
him to the bathtub to clean up, close the bathroom door to allow 
the patient to change before getting into the tub, and then 
heard a thump. The patient is unsure if he struck his head. He 
was found lying on the bathroom floor and then his friends 
called EMS. 

The patient denies any trouble with alcohol in the past. He 
often drinks socially but only on the weekends and typically 
limits it to ___ drinks in one night. He has never had 
withdrawal problems. He has never been hospitalized before for 
alcohol related problems. 

The patient also notes a recent car accident on his drive to 
___ on ___ evening. He was coming over a hill and 
the car just over the hill was at a dead stop because of 
construction. The patient slammed on the brakes of his Jeep and 
ended up slamming the driver's side of his Jeep into the 
passenger side of the car in front of him. He swerved toward the 
guardrail and ended up totaling his Jeep because it rolled on 
top of the guardrail. The patient has noted neck stiffness since 
that time, but was able to work all weekend at the ___ 
___, where he was doing his ___ job at the 
___. 

Over the weekend, the patient worked nearly 72 hours with only 3 
hours of sleep. He didn't eat or drink very much during the 
days. He ate a late dinner on ___ around ___ and otherwise 
only had alcohol to drink as noted above. 

The patient receives his primary care at a resident clinic out 
of ___. He has been in for routine physicals and states his 
heart rate is normally 70-80s.

On initial evaluation patient is intoxicated and smells of 
alcohol. The patient is asleep in the bed and difficult to 
arouse. There no obvious signs of external trauma physical exam 
is otherwise within normal limits.

In the ED, initial vitals: T 97.0, HR 74, BP 99/56, RR 18, O2 
98% RA  
Labs were significant for U/A with 3 WBC, 2 RBC, no bacteria. 
H/H ___. ETOH level 264, normal chemistries. 
Imaging showed normal head CT. 
In the ED, he received 4 L Normal saline.
___ 11:58 PO Diazepam 10 mg 
Vitals prior to transfer: T 99.2, HR 122, BP 135/69, RR 18, O2 
96% RA 
 
Currently, the patient denies chest pain or dyspnea, no 
dizziness. He feels like he has a slight hangover and still has 
some neck pain since his MVA, but otherwise feels well. 
 
ROS:  
No fevers, chills, night sweats, or weight changes. No changes 
in vision or hearing, no changes in balance. No cough, no 
shortness of breath, no dyspnea on exertion. No chest pain or 
palpitations. No nausea or vomiting. No diarrhea or 
constipation. No dysuria or hematuria. No hematochezia, no 
melena. No numbness or weakness, no focal deficits.
 
Past Medical History:
Seasonal allergies
s/p femoral angle correction surgery with bilateral hardware in 
place at age ___
GERD
 
Social History:
___
Family History:
Mother: HTN
Father: T2DM, HTN
PGF: ALS
MGF: Died from choking in ___.
MGM: Died age ___ from MI. 
Brother: healthy, age ___
 
Physical Exam:
ADMISSION EXAM:
VITALS: Tachycardic to 115, normotensive, afebrile, RR 14, 100% 
RA
GEN: Alert, lying in bed, no acute distress  
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor  
NECK: Supple without LAD  
PULM: Generally CTA b/l without wheeze or rhonchi  
COR: RRR (+)S1/S2 no m/r/g  
ABD: Soft, non-tender, non-distended  
EXTREM: Warm, well-perfused, no edema  
NEURO: CN II-XII grossly intact, motor function grossly normal

DISCHARGE EXAM:
VITALS: 97.9, 136/84, HR 84, RR 18, O2 100% RA, Wt 84.2kgs
GEN: Alert, lying in bed, no acute distress  
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor  
NECK: Supple without LAD  
PULM: Generally CTA b/l without wheeze or rhonchi  
COR: RRR (+)S1/S2 no m/r/g  
ABD: Soft, non-tender, non-distended  
EXTREM: Warm, well-perfused, no edema  
NEURO: CN II-XII grossly intact, motor function grossly normal
 
Pertinent Results:
ADMISSION LABS:

___ 05:00AM   PLT COUNT-234
___ 05:00AM   NEUTS-73.2* ___ MONOS-5.0 EOS-0.3* 
BASOS-0.4 IM ___ AbsNeut-6.80* AbsLymp-1.92 AbsMono-0.47 
AbsEos-0.03* AbsBaso-0.04
___ 05:00AM   WBC-9.3 RBC-5.10 HGB-14.8 HCT-44.1 MCV-87 
MCH-29.0 MCHC-33.6 RDW-12.3 RDWSD-38.5
___ 05:00AM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___:00AM   GLUCOSE-110* UREA N-11 CREAT-0.9 SODIUM-139 
POTASSIUM-3.7 CHLORIDE-103 TOTAL CO2-22 ANION GAP-18
___ 10:05AM URINE  MUCOUS-RARE
___ 10:05AM URINE  RBC-2 WBC-3 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 10:05AM URINE  BLOOD-TR NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-15 BILIRUBIN-NEG UROBILNGN-0.2 PH-6.0 LEUK-TR
___ 10:05AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 10:05AM URINE  GR HOLD-HOLD

DISCHARGE LABS:

___ 07:10AM BLOOD WBC-7.1 RBC-5.07 Hgb-15.0 Hct-44.3 MCV-87 
MCH-29.6 MCHC-33.9 RDW-12.8 RDWSD-40.1 Plt ___
___ 07:10AM BLOOD Glucose-89 UreaN-8 Creat-1.0 Na-143 K-4.4 
Cl-107 HCO3-29 AnGap-11
___ 07:10AM BLOOD Calcium-9.7 Phos-2.6* Mg-2.0

IMAGING:
Head CT scan ___:
FINDINGS:  
Study is mildly degraded by motion.  Within these confines: 
There is no evidence of infarction, hemorrhage, edema, or mass. 
The ventricles and sulci are normal in size and configuration. 
There is no evidence of fracture.  The visualized portion of the 
 mastoid air cells, and middle ear cavities are clear.  The 
visualized portion of the orbits are unremarkable.  Bilateral 
maxillary sinus mucous retention cyst versus polyps are noted.  
Soft tissue densities are noted within bilateral external 
auditory canals which may represent cerumen. 
  
IMPRESSION: 
  
1.  Study is mildly degraded by motion. 
2.  Within limits of study, no acute intracranial process. 
3.  Paranasal sinus disease as described.

Chest x-ray ___:
IMPRESSION:  
No previous images.  Cardiac silhouette is within normal limits 
and there is no evidence of vascular congestion, pleural 
effusion, or acute focal 
pneumonia. Apical pleural thickening with some fibrous stranding 
is seen bilaterally, consistent with old healed tuberculous 
disease. 
 

 
Brief Hospital Course:
Mr. ___ is a ___ M h/o GERD who presented intoxicated on the 
night of ___ after he passed out in his friend's hotel 
bathroom, admitted for monitoring of sinus tachycardia. 

ACTIVE DIAGNOSES:
# Alcohol intoxication: Patient reported many alcoholic drinks 
with co-workers after working all weekend at a ___ in 
___. He passed out in his friend's hotel bathroom. EMS was 
called and the patient was brought to the ___ ED where a head 
CT was negative. His alcohol level on admission was 264 mg/dL. 
He denied history of alcohol withdrawal in the past. Usually, he 
drinks with friends on ___ and drinks only ___ 
drinks at a time. He has never had problems with alcohol use in 
past. He was monitored on CIWA scale and did not score > 10. He 
was counseled on safe drinking limits. He should follow up with 
his PCP. 

# Sinus tachycardia: While waiting for sober re-evaluation in 
the emergency department, the patient's heart rate gradually 
rose to 120s. He was given 4L normal saline without improvement. 
He was also empirically given 10mg diazepam without effect 
(other than sedation). He did not have any signs or symptoms of 
withdrawal. No infectious signs/symptoms. He was admitted to 
medicine for observation overnight. EKG was unremarkable other 
than sinus tachycardia. Telemetry revealed resolving sinus 
tachycardia overnight on ___. His heart rate was ___ on the 
day of discharge and he felt quite well.

# A chest x-ray was ordered to rule out aspiration 
pneumonitis/pneumonia because the patient had an episode of 
emesis while intoxicated. There was no evidence of aspiration, 
but the chest x-ray formal read noted "Apical pleural thickening 
with some fibrous stranding is seen bilaterally, consistent with 
old healed tuberculous disease." The patient will need 
outpatient TB testing. 

# Sinusitis: Head CT revealed incidental finding of sinus 
congestion. Patient's review of symptoms was notable for 2.5 
weeks of sinus infection symptoms so he was started on 7 day 
course of Augmentin on ___.

CHRONIC DIAGNOSES:
# Gastroesophageal reflux: He was continued on calcium carbonate 
as needed.

TRANSITIONAL ISSUES:
-Reinforce safe drinking limits
-Augmentin prescription given for 7 day course to treat 
sinusitis (Day ___
-Latent TB testing as outpatient given CXR findings of apical 
pleural thickening.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcium Carbonate 500 mg PO QID:PRN indigestion 

 
Discharge Medications:
1. Calcium Carbonate 500 mg PO QID:PRN indigestion 
2. Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 7 Days 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*14 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
Alcohol intoxication
Sinus tachycardia
Apical pleural thickening on chest x-ray
Sinusitis

SECONDARY DIAGNOSES:
Gastroesophageal reflux
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure caring for you at ___. You were brought in 
by ambulance after passing out while intoxicated by alcohol. A 
CT scan of your head was negative for trauma or bleeding in your 
brain. While being monitored in the emergency room, your heart 
rate rose to 120s and you were given IV fluids as well as 
treatment for alcohol withdrawal, neither of which helped your 
heart rate. You were admitted to the general medical service for 
closer monitoring.

Overnight, we monitored your heart rate and it trended down to 
the ___. You had no signs or symptoms of alcohol withdrawal. We 
suspect your heart rate elevation was multifactorial: related to 
lack of sleep, heavy alcohol use, poor nutrition over the 
weekend, and possibly a drug that may have been slipped into 
your drink at the bar. 

For your safety, we recommend no more than 14 alcoholic drinks 
per week and no more than ___ alcoholic drinks at one time. 

In addition, we checked a chest x-ray during your admission 
which showed some scarring at the top of the lungs. This could 
be related to an old TB infection. Please follow up with your 
primary care doctor for TB testing. There is no risk of 
spreading TB, you simply may have been exposed in the past. This 
may need treatment in the future.

Finally, you reported over 2 weeks of sinus infection symptoms. 
We started an antibiotic called Augmentin on ___. You will 
take this antibiotic for the next 7 days (last day ___. 
Again, please follow up with your primary care doctor at the 
appointment noted below.

We wish you all the best!
Your ___ Team
 
Followup Instructions:
___